US07662837B2
d) 4-(1,1-Dioxo-hexahydro-1λ6-thiopyran-4-yl)-phenylamine
A mixture of 4-(4-nitro-phenyl)-3,6-dihydro-2H-thiopyran 1,1-dioxide (as prepared in the previous step, 502 mg, 1.98 mmol) and 10% Pd/C (250 mg, 50 wt %) in 15 mL of MeOH was stirred at RT under H2 (balloon pressure) for 2 h. The Pd catalyst was removed by filtration on Celite, and the filtrate was concentrated to give 314 mg (70%) of the title compound as a slightly yellow solid. 1H-NMR (CDCl3; 400 MHz): δ 7.03 (d, 2H, J=8.3 Hz), 6.67 (d, 2H, J=8.3 Hz), 3.51-3.79 (br s, 2H), 3.11-3.17 (m, 4H), 2.70 (dddd, 1H, J=12.3, 12.3, 2.9, 2.9 Hz), 2.31-2.43 (m, 2H), 2.15-2.23 (m, 2H).

reactant | 4-(4-nitro-phenyl)-3,6-dihydro-2H-thiopyran 1,1-dioxide | [N+](=O)([O-])C1=CC=C(C=C1)C=1CCS(CC1)(=O)=O | C11H11NO4S
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | 4-(1,1-Dioxo-hexahydro-1λ6-thiopyran-4-yl)-phenylamine | 314 mg, 70% | O=S1(CCC(CC1)C1=CC=C(C=C1)N)=O | C11H15NO2S
